US09353108B2
D) 2-Cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-carbaldehyde
Manganese dioxide (45.9 g) was added to a toluene (80 mL) solution of (2-cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-yl)methanol (16.1 g), and the mixture was stirred at 60° C. for 1 hour in a nitrogen atmosphere. The reaction mixture was filtered, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (12.8 g).

reactant | (2-cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-yl)methanol | 16.1 g | C1(CC1)C1=C(C=C(C(=C1)CO)OCC)C1=C(C=C(C=C1)F)F | C18H18F2O2
catalyst | Manganese dioxide | 45.9 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-5-ethoxy-2′,4′-difluorobiphenyl-4-carbaldehyde | 12.8 g | C1(CC1)C1=C(C=C(C(=C1)C=O)OCC)C1=C(C=C(C=C1)F)F | C18H16F2O2
